US03953442
d. 5-chloro-3-[2-(1,3-dioxolan-2-yl)propyl] indole
38g (0.61 mole) of ethylene glycol and 1.4 g of paratoluene sulphonic acid are added to 6.35g of 5-chloro-3-(2-oxopropyl)indole dissolved in 320 ml of anhydrous benzene. This mixture is brought to reflux and held thereat for 3 hours, the water formed being separated. The reaction mixture is dissolved in an aqueous solution of sodium bicarbonate and filtered to eliminate the insoluble material. The organic phase is decanted, dried and concentrated. The product obtained is recrystallised from ethanol.

reactant | ethylene glycol | C(CO)O | C2H6O2
reactant | paratoluene sulphonic acid | 1.4 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | 5-chloro-3-(2-oxopropyl)indole | 6.35g | ClC=1C=C2C(=CNC2=CC1)CC(C)=O | C11H10ClNO
reactant | water | O | H2O
solvent | benzene | 320 ml | C1=CC=CC=C1 | C6H6
product | 5-chloro-3-[2-(1,3-dioxolan-2-yl)propyl] indole | ClC=1C=C2C(=CNC2=CC1)CC(C)C1OCCO1 | C14H16ClNO2
